US07067517B2
Methyl-phenyl-carbamic acid 6-(4-methoxy-benzyl)-pyridazin-3-yl ester
A solution of 6-(2-pyridinylmethyl)-3-pyridazinol (97 mg, 0.45 mmol), N-methyl-N-phenylcarbamoyl chloride (76 mg, 0.45 mmol) and 1,4-diazabicyclo[2.2.2]octane (50 mg, 0.45 mmol) in dimethylformamide (10 ml) was stirred at room temperature for 2 hours. Water was added and the solution was extracted twice with dichloromethane. The combined organic layers were dried over sodium sulphate, filtered and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane (50:50)) yielding the title compound (117 mg, 41% yield) as a white solid.

reactant | 6-(2-pyridinylmethyl)-3-pyridazinol | 0.45 mmol, 97 mg | N1=C(C=CC=C1)CC1=CC=C(N=N1)O | C10H9N3O
reactant | N-methyl-N-phenylcarbamoyl chloride | 0.45 mmol, 76 mg | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.45 mmol, 50 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | Water | O | H2O
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Methyl-phenyl-carbamic acid 6-(4-methoxy-benzyl)-pyridazin-3-yl ester | 117 mg, 41% yield | COC1=CC=C(CC2=CC=C(N=N2)OC(N(C2=CC=CC=C2)C)=O)C=C1 | C20H19N3O3
